US05919986
d) (R)-6-[(1R,4aR,5S,8aR)-5-(tert-Butyl-dimethyl-silanyloxy)-8a-methyl-decahydro-naphthalen-1-yl]-2-methyl-hept-3-yn-2-ol
3.05 g (6.00 mmol) of tert-butyl-[(1S,4aR,5R,8aR)-5-((R)-4,4-dibromo-1-methyl-but-3-enyl)-4a-methyl-decahydro-naphthalen-1-yloxy]-dimethyl-silane was dissolved in 35 ml of abs. THF and cooled down to -78°. 11.6 ml of nBuLi (1.55M, hexane) was slowly added and the temperature maintained for 1 h. 2.15 ml (29.3 mmol) of acetone, dissolved in 5 ml of abs. THF, was then added to the resultant acetylide-solution and allowed to react for 30 minutes. The reaction was quenched by pouring onto crushed ice/NH4Cl, extracted twice with ether, washed with water and brine, dried over sodium sulfate and evaporated to dryness. Flash chromatography (SiO2, hexane/AcOEt=9/1) yielded 1.93 g of the title compound as colorless oil.

reactant | tert-butyl-[(1S,4aR,5R,8aR)-5-((R)-4,4-dibromo-1-methyl-but-3-enyl)-4a-methyl-decahydro-naphthalen-1-yloxy]-dimethyl-silane | 6.00 mmol, 3.05 g | C(C)(C)(C)[Si](C)(C)O[C@H]1CCC[C@@]2([C@H](CCC[C@@H]12)[C@@H](CC=C(Br)Br)C)C | C22H40Br2OSi
reactant | nBuLi | 1.55M, 11.6 ml | [Li]CCCC
reactant | acetone | 29.3 mmol, 2.15 ml | CC(=O)C | C3H6O
reactant | acetylide | [C-]#[C-]
solvent | THF | C1CCOC1 | C4H8O
product | (R)-6-[(1R,4aR,5S,8aR)-5-(tert-Butyl-dimethyl-silanyloxy)-8a-methyl-decahydro-naphthalen-1-yl]-2-methyl-hept-3-yn-2-ol | 1.93 g | C(C)(C)(C)[Si](O[C@@H]1[C@@H]2CCC[C@@H]([C@]2(CCC1)C)[C@@H](CC#CC(C)(O)C)C)(C)C | C25H46O2Si
